US05177069
A mixture of 2-naphthalenethiol (0.38 g), sodium 3-methoxycarbonyl-2-methylenepropionate (0.39 g), methanol (20 ml), and triton B (40% methanol solution, 10 drops) was refluxed for 12 hours. The reaction mixture was concentrated in vacuo, and the resulting residue was acidified with a dilute hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water, and dried over MgSO4. The solvent was evaporated at reduced pressure, and the residue was purified by medium pressure liquid column chromatography on silica eluting with chloroform/methanol (20:1), and recrystallized from isopropyl ether to give 0.38 g of 2-methoxycarbonylmethyl-3-(2-naphthylthio)propionic acid.

reactant | 2-naphthalenethiol | 0.38 g | C1=C(C=CC2=CC=CC=C12)S | C10H8S
reactant | sodium 3-methoxycarbonyl-2-methylenepropionate | 0.39 g | COC(=O)CC(C(=O)[O-])=C.[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 2-methoxycarbonylmethyl-3-(2-naphthylthio)propionic acid | 0.38 g | COC(=O)CC(C(=O)O)CSC1=CC2=CC=CC=C2C=C1 | C16H16O4S
